US06833378B2
2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-ethyl-2-hydroxy-propylamino)-6-methyl-nicotinamide
To a solution of MeMgBr in dry THF was added a solution of 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-formyl-propylamino)-6-methyl-nicotinamide in dry THF at −78° C. The mixture was stirred at −78° C. for 2 hr, then quenched with dilute acid. After standard extraction and purification, the title compound was obtained. 1H NMR(CDCl3) d 9.8(d,1H), 7.9(nbrs,1H), 7.05(s,2H), 6.27(s,0.5H), 6.24(s,0.5H), 5.6(brs,1H), 3.91(m,0.5H), 3.89(m,0.5H), 3.51(m,0.5H), 3.3(m,0.5H), 2.09(s,9H), 1.5-1.8(m,2H), 1.26(d,3H), 0.98(t,3H) ppm.

reactant | MeMgBr | C[Mg+].[Br-]
reactant | 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-formyl-propylamino)-6-methyl-nicotinamide | ClC1=CC(=C(OC2=C(C(=O)N)C(=CC(=N2)C)NC(CC)C=O)C(=C1)C)C | C19H22ClN3O3
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-ethyl-2-hydroxy-propylamino)-6-methyl-nicotinamide | ClC1=CC(=C(OC2=C(C(=O)N)C(=CC(=N2)C)NC(C(C)O)CC)C(=C1)C)C | C20H26ClN3O3
